US07728018B2
2,2-Diethyl-malononitrile
Malononitrile (15.2 g) was mixed with TBAB (3.0 g, 4 mol %) and ethyl iodide (36.8 mL, 2 equiv.). After stirring for 30 minutes at room temperature, the mixture was cooled in an ice bath, KOtBu (51.6 g, 2 equiv.) was added portionwise, the ice bath was removed, and the mixture was stirred for 30 minutes at room temperature. Extraction with DCM/H2O, drying over Na2SO4 and evaporation under reduced pressure gave 40 grams of crude material, which was purified by flash chromatography eluting with DCM. This yielded 20.4 grams of an orange oil which solidified upon standing. 1H NMR (400 MHz, CDCl3) δ 1.29 (t, J=7.5 Hz, 6H), 2.00 (q, J=7.5 Hz, 4H).

reactant | Malononitrile | 15.2 g | C(CC#N)#N | C3H2N2
reactant | ethyl iodide | 36.8 mL, 2 equiv. | C(C)I | C2H5I
reactant | KOtBu | 51.6 g, 2 equiv. | CC(C)(C)[O-].[K+]
catalyst | TBAB | 3.0 g | CCCC[N+](CCCC)(CCCC)CCCC.[Br-]
product | 2,2-Diethyl-malononitrile | 40 grams | C(C)C(C#N)(C#N)CC | C7H10N2
